US05053509
A suspension of 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (0.96 g), (RS)-2-(2-furyl)piperazine (0.6 g) and sodium carbonate (0.38 g) in dimethyl sulphoxide (20 cc) is heated to approximately 95° C. for 5 hours and a half. After cooling to approximately 20° C., the mixture is poured into water (50 cc) at a temperature in the region of 5° C. and extracted with dichloromethane (3×100 cc). The combined organic extracts are washed with water (3×50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 kPa) at approximately 40° C. The residue obtained is taken up with ethanol (20 cc), drained and washed with ethanol (2×20 cc) and ethyl ether (3×30 cc). (RS)-3-Ethoxycarbonyl-7-fluoro-8-[3-(2-furyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.3 g) is obtained in the form of a yellow solid, m.p. 198°-200° C., which is used without further purification for the subsequent steps.

reactant | 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 0.96 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
reactant | (RS)-2-(2-furyl)piperazine | 0.6 g | O1C(=CC=C1)C1NCCNC1 | C8H12N2O
reactant | sodium carbonate | 0.38 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 cc | O | H2O
solvent | dimethyl sulphoxide | 20 cc | CS(=O)C | C2H6OS
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | (RS)-3-Ethoxycarbonyl-7-fluoro-8-[3-(2-furyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.3 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)N3CC(NCC3)C=3OC=CC3)=O | C24H23FN4O4
